US06034239
(2,3-dihydrobenzofuran-5-yl)methanol
To a solution of 2,3-dihydrobenzofuran-5-carbaldehyde (30.0 g, 0.202 mol) in methanol (150 mL) was added sodium borohydride (3.83 g, 0.101 mol) under ice-cooling. The mixture was stirred for 15 minutes at ambient temperature and then diluted with water. The product was extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and evaporated. The residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to afford the title compound (yield 27.6 g, 91%) as an oily product.

reactant | 2,3-dihydrobenzofuran-5-carbaldehyde | 0.202 mol, 30.0 g | O1CCC2=C1C=CC(=C2)C=O | C9H8O2
reactant | sodium borohydride | 0.101 mol, 3.83 g | [BH4-].[Na+]
solvent | methanol | 150 mL | CO | CH4O
solvent | water | O | H2O
product | (2,3-dihydrobenzofuran-5-yl)methanol | yield 27.6 g, 91% | O1CCC2=C1C=CC(=C2)CO | C9H10O2
